US07737166B2
2-tert-Butyl-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-6-(3-hydroxyphenyl)-5-methyl-1,3-benzoxazole-4-carbonitrile (#7)
2-tert-Butyl-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-6-(3-methoxyphenyl)-5-methyl-1,3-benzoxazole-4-carbonitrile (I-23) (10 mg, 23.1 μmol) was dissolved (partially suspended) in benzene (2.0 ml), and dropwise added to a benzene (2.0 ml) suspension reflux liquid of aluminium chloride (9.2 mg, 69.0 μmol). The benzene wash (8.0 ml) of the eggplant-type flask with the starting material adhering thereto was also added, followed by refluxing for 0.5 hours. After cooling, aluminium chloride (61.7 mg, 462 μmol) was further added, followed by further stirring under reflux for 15 minutes. After cooling, saturated sodium bicarbonate water (50 ml) was added to the reaction liquid, the product was extracted with chloroform (50 ml×2), ethyl acetate (50 ml).

reactant | 2-tert-Butyl-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-6-(3-methoxyphenyl)-5-methyl-1,3-benzoxazole-4-carbonitrile | 23.1 μmol, 10 mg | C(C)(C)(C)C=1OC=2C(N1)=C(C(=C(C2N2C[C@H](CC2)N(C)C)C2=CC(=CC=C2)OC)C)C#N | C26H32N4O2
reactant | aluminium chloride | 69.0 μmol, 9.2 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | aluminium chloride | 462 μmol, 61.7 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium bicarbonate water | 50 ml | O.C([O-])(O)=O.[Na+]
solvent | benzene | 2.0 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 2.0 ml | C1=CC=CC=C1 | C6H6
product | 2-tert-Butyl-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-6-(3-hydroxyphenyl)-5-methyl-1,3-benzoxazole-4-carbonitrile | C(C)(C)(C)C=1OC=2C(N1)=C(C(=C(C2N2C[C@H](CC2)N(C)C)C2=CC(=CC=C2)O)C)C#N | C25H30N4O2
